US06472372B1
4-(4-Methyl-1H-pyrazol-1-yl)benzaldehyde
A solution of 4-methylpyrazole (1.98 g, 24.11 mmol) in DMF (8 mL) was added to sodium hydride (60% in oil, 0.97 g, 24.25 mmol) in DMF (6 mL) and the resulting mixture was stirred 2 h at RT. 4-Fluorobenzaldehyde (1.26 g, 7.45 mmol) was added dropwise and the resulting mixture heated to 80° C. for 3 h. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 4:1 hexane/ethyl acetate) followed by recrystallization from hexane yielded the title compound. MS 187 (M+H)+.

reactant | 4-methylpyrazole | 24.11 mmol, 1.98 g | CC=1C=NNC1 | C4H6N2
reactant | sodium hydride | 24.25 mmol, 0.97 g | [H-].[Na+]
reactant | 4-Fluorobenzaldehyde | 7.45 mmol, 1.26 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-(4-Methyl-1H-pyrazol-1-yl)benzaldehyde | CC=1C=NN(C1)C1=CC=C(C=O)C=C1 | C11H10N2O
